US07098212B2
(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenylsulfamoyl)-acetic acid
To a solution of 2-(2-amino-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.030 g, 0.074 mmol) in dimethylformamide (0.5 ml) was added potassium carbonate (0.030 g, 0.239 mmol), chlorosulfonyl-acetic acid ethyl ester (0.02 g, 0.12 mmol) (for preparation, see: Helv. Chim. Acta., (1997) 80, 671 and Bull. Soc. Chim. Fr. (1975), 807) in dimethylformamide (0.5 ml) and finally catalytic dimethylaminopyridine. After 23 hours the reaction was diluted with ethyl acetate and washed with pH 7.0 phosphate buffer (0.05 M). The organic layer was dried over magnesium sulfate, filtered and concentrated. The crude ester was then dissolved in 1:1 tetrahydrofuran:water (0.5 ml) and lithium hydroxide hydrate (0.004 g, 0.095 mmol) was added. After 19 hours the reaction was concentrated and the title compound purified by silica gel chromatography (0.006 g, LRMS: 528.3).

reactant | 2-(2-amino-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.074 mmol, 0.030 g | NC1=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=CC(=C1)Cl | C21H25ClFN3O2
reactant | potassium carbonate | 0.239 mmol, 0.030 g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorosulfonyl-acetic acid ethyl ester | 0.12 mmol, 0.02 g | C(C)OC(CS(=O)(=O)Cl)=O | C4H7ClO4S
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | lithium hydroxide hydrate | 0.095 mmol, 0.004 g | O.[OH-].[Li+]
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 0.5 ml | O | H2O
product | (5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenylsulfamoyl)-acetic acid | ClC=1C=CC(=C(C1)NS(=O)(=O)CC(=O)O)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C23H27ClFN3O6S
